US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (4 g) is alkylated using (2-iodo-ethyl)-cyclopropane (5.36 g; 27.3 mmol) and K2CO3 (6.30 g; 45.6 mmol) at 55° C. for 12 h. After aqueous work-up the crude material (4.21 g) is de-acetylated in hydrochloric acid (6 N, 30 ml) at reflux. After aqueous work-up 5-amino-1-(2-cyclopropyl-ethyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (3.75 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 4 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | (2-iodo-ethyl)-cyclopropane | 27.3 mmol, 5.36 g | ICCC1CC1 | C5H9I
reactant | K2CO3 | 45.6 mmol, 6.30 g | C(=O)([O-])[O-].[K+].[K+]
solvent | hydrochloric acid | 6 N, 30 ml | Cl | ClH
product | 5-amino-1-(2-cyclopropyl-ethyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 3.75 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCC1CC1)=O)(C)C | C15H19N3O3
